Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / Topamax / Opioid narcotics
 
Attending: ___.
 
Chief Complaint:
"I have anxiety attacks since my lae ___ they come and go and
disappear for years this year they've been particularly 
bad...the
panic attacks..in ___ I did a stupid thing and lost my job,
we just moved here 3 weeks ago, my husband got transferred and
we're looking for a house." 
 
Major Surgical or Invasive Procedure:
N/a
 
History of Present Illness:
The patient is a ___ yo overweight Cauc.with hx of depression and
anxiety with 2 previous psychiatric hospitalizations this past
year with severe anxiety and depression and feeling unsafe.
The patient reports that is an anxious person which is
exacerbated by separations and changes and this past year she 
has
had a number of stressors.She was fired from her job which
precipitated an anxiety attack and she became suicidal and
"voluntarily" admitted herself a psychiatric hospital.Her 
husband
was transferred to ___, they have to move have not sold their
house in ___ and are looking for a house in the ___ area.
She reports that her panic attack started 3 weeks ago, has tried
to calm herself down but has been having "bad thoughts thinking
it would be easier to swallow a bottle of pills but  not sure I
would seriously do it and wanted to prevent myself from hurting
myself.. and what it would do to my son.If anything happened to
me it would destroy him."
She also is planning to attend a ___ in ___ with all her
former co-workers and is still feeling somewhat humiliated and
embarrassed after they way she had to leave her job.
She reports that she has been fighting depression since her
husband told her that they were moving, sleeps only with Ambien;
and has not eaten for the past 3 days, and reports that feeling
"exhausted" and reports that when she gets panic attacks all she
wants to do sleep but can't, and feels fearful and irrational.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
___ in ___, ___, ___ for a depression, anxiety  and si, "voluntary admission" 
for
9 days, re-admitted in ___ for medication adjustment and
was tapered off Topamax. 
Current treaters and treatment:none , was contacted by ___ who told her that they are having an intake 
meeting
on ___ and will call her after that meeting to set up and
appointment.
Previous;y treated by psychiatrist ___, in ___
former therapist Dr. ___ in ___.
Medication: Topamax, Paxil, Lorazepam,Neurontin
Self-injury:denies hx of cutting, or SA , reports that when she
gets anxious to slaps herself on the head , not to harm herself
but "to get my mind of the anxiety"
Harm to others:denies
Access to weapons:denies access to guns

PAST MEDICAL HISTORY:
* PCP ___ 
  @ ___ ___
* Obesity
* Seasonal allergies
* Arthritis
* Asthma
* Hyperlipidemia
* Migraines
* s/p Lap adj band
* s/p Cesarean section
* Cholecystectomy
 
Social History:
SUBSTANCE ABUSE HISTORY:
Alcohol: denies hx of abuse or over use, has an occasional 
         "Magarita", one drink a week
Illicts: denies
Tob:quit
Caffeine: denies

FORENSIC HISTORY:not applicable
Arrests:no
Convictions and jail terms:no
Current status (pending charges, probation, parole)no

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
* Mother with hx of panic attacks
* Cousins and ___ with phobias
 
Physical Exam:
===================================
PHYSICAL EXAM ON ADMISSION:
===================================
VS:  BP:158/93   HR:110   temp:98.6    resp:18  O2 sat:99%RA  

Neurological:  
 *station and gait: wnl
 *tone and strength:good and tone
 cranial nerves:not tested 
 abnormal movements: none noted
 frontal release:not tested

Cognition: 
 Wakefulness/alertness:alert
 *Attention (digit span, MOYB):MOYB
 *Orientation:" the ___ US.Pres."Obama" ___
 Executive function (go-no go, Luria, trails, FAS):not tested
 *Memory: 3 out of 3 in 5"  
 *Fund of knowledge:  able to name ___
 ___:  9 quarters =$2.25
 Abstraction: Glass Houses " don't be a hypocrite"
 Visuospatial: not tested
 *Speech: articulate and fast but not pressured
 *Language: intact
 
Mental Status:
 *Appearance:  ___ yo overweight cauc. female, with adequate
grooming and hygiene, sitting on a stretcher dressed in hospital
gown with good eye contact
 Behavior: in good behavioral control
 *Mood and Affect:depressed "sad" anxious, labile and teary
 *Thought process / *associations: linear and logical with no 
loa
 *Thought Content:denies paranoid ideation, denies AVH, or IOR 
 *Judgment and Insight:  limited/limited

 
Pertinent Results:
===========================
LAB RESULTS ON ADMISSION:
===========================

___ 03:05PM   GLUCOSE-104* UREA N-12 CREAT-0.6 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-23 ANION GAP-15
___ 03:05PM   WBC-8.0 RBC-4.82 HGB-15.1 HCT-44.1 MCV-91 
MCH-31.3 MCHC-34.2 RDW-13.5
___ 03:05PM   ALT(SGPT)-24 AST(SGOT)-25 ALK PHOS-68 TOT 
BILI-0.5
___ 03:05PM   ALBUMIN-4.5
___ 03:05PM   VIT B12-428 FOLATE-11.1
___ 03:05PM   TSH-3.9
___ 03:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
 
Brief Hospital Course:
1. Legal: ___
2. Medical: Hypertension and Insomnia. Patient was maintained on 
home dose medications while in the unit.  At time of discharge, 
pt’s PCP was contacted, and an appointment was established for 
follow-up with PCP on ___. 

3. Psychiatric
This is a ___ with a family history of mood disorders, and a PMH 
of depression, anxiety and panic attacks, who has been 
combatting several psychosocial stressors (recent move, job 
loss, ___, child with Down syndrome, mother with 
medical problems, flooding of her house) and who presented to 
the ED for three days of worsening anxiety and possible passive 
SI.

Extensive time was spent discussing the patient’s diagnosis and 
psychopharmacology issues. On admission to the unit, patient was 
anxious, overwhelmed and tearful. She reported experiencing a 
mounting anxiety over the last month that paralyzed her and made 
it challenging for her take care of her child and her own basic 
needs. Patient's dose of Venlafaxine was raised to 150mg daily 
and dose of neurontin was increased to 600mg BID without 
reported side effects. Additionally, the patient participated in 
individual, group, and milieu therapy. Through therapy sessions 
and pharmacologic changes, patient felt that her "mind [had] 
calmed down," and that she had developed coping skills that 
would assists her in her every-day life. She reported feeling 
more energized, and had considered volunteer opportunities and 
other ways of keeping herself busy and socializing once she 
returned home. Patient was referred to outpatient treaters 
(psychiatrist, therapist) at the ___, and it was 
recommended that the Center refer her to a partial hospital 
program when she returned from her vacation to ___ on ___. At the time of discharge, patient denied any SI, intent or 
plan. She was anxious, but hopeful of the future and was 
appreciative of the care she received during her admission.

4. Substance Abuse: No acute issues.

5. Social/Milieu:
Pt  participated in unit’s groups/milieu/therapy opportunities.  
Usage of coping skills and mindfulness/relaxation methods were 
encouraged. Pt benefitted from socialization opportunities and 
particularly enjoyed the ___ projects group. 

6. Risk Assessment:
Pt currently has a low acute risk.

Chronic risk factors include; white race, h/o recent psychiatric 
hospitalization for depression and SI, recent move, stress from 
work, chronic medical problem (s/p lap band surgery).

We modified the pt's risk by providing stabilization through a 
short hospital stay, change in medications to target her 
anxiety, working on coping skills w/ her, and setting her up 
with outpt treaters.

Protective factors include her supportive network of family, 
stable housing, employement, lack of substance abuse, treatment 
seeking, sense of responsibility to family,  interest in 
outpatient support, future oriented, resilient nature, and 
specifically her son with Down's syndrome.

7. Disposition: Patient to return to home prior to going on 
vacation to ___ where she will be with her Sister and family. 
The patient will follow up with the ___ to have her 
set up with a psychiatrist and therapist. The patient was given 
2 weeks worth of medications and plans to follow up with her PCP 
___ ___.

8. Condition: Good
 
Medications on Admission:
AMLODIPINE - amlodipine 5 mg tablet. 1 tablet(s) by mouth daily
GABAPENTIN [NEURONTIN] - Neurontin 300 mg capsule. 1 capsule(s)
by mouth twice daily 

VENLAFAXINE [EFFEXOR XR] - Effexor XR 75 mg capsule,extended
release. 1 capsule(s) by mouth daily -  
VENLAFAXINE [EFFEXOR XR] - Effexor XR 37.5 mg capsule,extended
release. 1 capsule(s) by mouth daily -  
ZOLPIDEM [AMBIEN] - Ambien 10 mg tablet. 1 tablet(s) by mouth at
bedtime -  
Lorazepam 1mg prn anxiety but rarely takes

 
Discharge Medications:
1. Gabapentin 600 mg PO BID 
RX *gabapentin 600 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0
2. Venlafaxine XR 150 mg PO DAILY 
RX *venlafaxine [Effexor XR] 150 mg 1 capsule(s) by mouth daily 
Disp #*14 Capsule Refills:*0
3. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
4. Amlodipine 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anxiety d/o NOS, Depression NOS

 
Discharge Condition:
*station and gait: normal
*tone and strength: normal 
abnormal movements: None observed
 
*Appearance: middle-aged woman, appearing her age, clean, 
well-groomed, NAD. 
Behavior: cooperative, pleasant, calm.
*Mood and Affect: 'a little anxious today' euthymic, full. 
*Thought process: linear, goal oriented, no loosening of 
associations.
*Thought Content: denies suicidal ideation or plan. Denies 
homicidal
ideation, hallucinations or delusions. Patient is focused on
establishing the necessary supports for herself at home and
thinking of ways to keep herself busy and safe.  
*Judgment and Insight: good/good

 
Discharge Instructions:
Dear Ms. ___,

As you know, you were admitted to ___ for worsening anxiety 
and vague thoughts of killing yourself in the setting of many 
stressors. For this, we increased your dose of neurontin to 
600mg twice a day, increased your dose of Venlafaxine to 150mg 
daily, and provided you with individual, group, and milieu 
therapy. You reported benefitting considerably from the 
medication changes, the socialization, and the copping skills 
and arts and crafts groups. We have set you up with outpatient 
providers and will provide you with information for a partial 
hospital program, which you can schedule when you return from 
your trip. 

Please follow up with all outpatient appointments as listed, and 
take this discharge paperwork to your appointments.

Please continue all medications as directed.

Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.

Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.

If you have any questions about your recent hospitalization at 
___ please call ___ to talk to the team that cared 
for you during your admission.

We wish you the best of health,
Your ___ Mental Health Team
 
Followup Instructions:
___